US06207693B1
A solution of 3-methoxy-4-[1-(4-methoxybenzyl)-2-(N-methylcarbamoyl)-1 H-benzimidazol-4-yl]carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide (130 mg) in trifluoroacetic acid (3 ml) was stirred at 60° C. for 8 hours. The reaction mixture was concentrated in vacuo and the residue was diluted with a mixture of chloroform and saturated aqueous sodium bicarbonate solution. The organic layer was separated and washed with water and brine. The solution was dried over magnesium sulfate and the solvent was evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (chloroform-methanol=10:1) to give 3-methoxy-N-methyl-4-[2-(N-methylcarbamoyl)-1 H-benzimidazol-4-yl]carbonylamino-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)-carbonylpent-1-yloxy]phenyl]benzamide (45 mg) as a powder.

reactant | 3-methoxy-4-[1-(4-methoxybenzyl)-2-(N-methylcarbamoyl)-1 H-benzimidazol-4-yl]carbonylamino-N-methyl-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)carbonylpent-1-yloxy]phenyl]benzamide | 130 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C)C)C=CC1NC(=O)C1=CC=CC=2N(C(=NC21)C(NC)=O)CC2=CC=C(C=C2)OC | C45H53N7O7
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methoxy-N-methyl-4-[2-(N-methylcarbamoyl)-1 H-benzimidazol-4-yl]carbonylamino-N-[4-methyl-2-[5-(4-methylpiperazin-1-yl)-carbonylpent-1-yloxy]phenyl]benzamide | 45 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCC(N2CCN(CC2)C)=C=O)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)C(NC)=O | C37H43N7O6
